US09421205B2
(e) tert-Butyl 2-(4-((4-((2-(2-amino-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I40)
To a nitrogen de-gassed solution of 2-(2-ethynylphenyl)acetamide (I39) (0.054 g, 0.788 mmol) and tert-butyl 2-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I37) in dry DMF (4 mL) were added triethylamine (0.159 mL, 1.138 mmol), triphenylphosphine (0.011 g, 0.043 mmol), trans-dichlorobis(triphenylphosphine)palladium(II) (0.020 g, 0.028 mmol) and CuI (0.008 g, 0.04 mmol). The reaction mixture was heated under microwave irradiation at 120° C. for 20 minutes. The reaction was concentrated to dryness in vacuo and purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-100% EtOAc in petroleum benzine 40-60° C., then 0-5% methanol in EtOAc) to give the title compound (I40) (0.122 g, 74% yield) as a yellow glassy solid; 1H NMR (400 MHz, d6-DMSO) δ 10.48 (s, 1H), 8.82 (s, 1H), 7.73 (d, J=8.7 Hz, 2H), 7.65-7.55 (m, 1H), 7.55-7.47 (m, 1H), 7.47-7.33 (m, 3H), 7.16 (d, J=8.5 Hz, 2H), 7.01 (s, 1H), 5.29-5.22 (m, 1H), 3.92 (d, J=13.1 Hz, 1H), 3.70 (s, 2H), 2.71 (t, J=13.3 Hz, 1H), 2.34-2.24 (m, 1H), 1.82-1.68 (m, 1H), 1.54 (d, J=11.3 Hz, 2H), 1.45-1.22 (m, 11H). LCMS Method C: rt 6.52 min; m/z 578.3 [M−H]−.

reactant | 2-(2-ethynylphenyl)acetamide | 0.788 mmol, 0.054 g | C(#C)C1=C(C=CC=C1)CC(=O)N | C10H9NO
reactant | tert-butyl 2-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | triethylamine | 1.138 mmol, 0.159 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.043 mmol, 0.011 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.028 mmol, 0.020 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.04 mmol, 0.008 g | [Cu]I
product | tert-Butyl 2-(4-((4-((2-(2-amino-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 74% yield | NC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O3
